### PR TITLE
[Merged by Bors] - feat(ENNReal/Lemmas): limsup/liminf of `f + g` when either `f` or `g` tends to zero

### PR DESCRIPTION
**Pull request by Timeroot**
Co-authored-by: @Aristotle-Harmonic

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 1]
```diff
@@ -1426,6 +1428,68 @@ lemma ofNNReal_liminf {u : ι → ℝ≥0} (hf : f.IsCoboundedUnder (· ≥ ·)
   rw [coe_le_coe, le_liminf_iff, le_liminf_iff]
   simp [forall_ennreal]
 
+theorem liminf_add_tendsTo_zero [Preorder ι] [IsDirected ι (· ≤ ·)] [Nonempty ι]
+  (f g : ι → ℝ≥0∞) (hg : atTop.Tendsto g (𝓝 0)) :
+    atTop.liminf (f + g) = atTop.liminf f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean]: Is this at all specific to `atTop`?

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 2]
```diff
@@ -1426,6 +1428,68 @@ lemma ofNNReal_liminf {u : ι → ℝ≥0} (hf : f.IsCoboundedUnder (· ≥ ·)
   rw [coe_le_coe, le_liminf_iff, le_liminf_iff]
   simp [forall_ennreal]
 
+theorem liminf_add_tendsTo_zero [Preorder ι] [IsDirected ι (· ≤ ·)] [Nonempty ι]
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean]:
```suggestion
theorem liminf_add_of_right_tendsto_zero [Preorder ι] [IsDirected ι (· ≤ ·)] [Nonempty ι]
```

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean (hunk 1 above)
Comment (Timeroot) [reply Mathlib/Topology/Instances/ENNReal/Lemmas.lean]: You're right, it's not. In fact, it requires no acts about the filter at all, nor any assumptions about ι, if I do it right. Ha!

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 3]
```diff
@@ -5,6 +5,8 @@ Authors: Johannes Hölzl
 -/
 import Mathlib.Algebra.BigOperators.Intervals
 import Mathlib.Data.ENNReal.BigOperators
+import Mathlib.Tactic.Bound
+import Mathlib.Tactic.Peel
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean]:
```suggestion
```

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 4]
```diff
@@ -1426,6 +1428,54 @@ lemma ofNNReal_liminf {u : ι → ℝ≥0} (hf : f.IsCoboundedUnder (· ≥ ·)
...
+    obtain ⟨x, ⟨w, hw₁, hw₂⟩, hx⟩ := hx
+    obtain ⟨N, hN₁, hN₂⟩ := h_eps (tsub_pos_of_lt hx)
+    refine ⟨_, u.inter_sets hw₁ hN₁, fun v hv ↦ ?_⟩
+    specialize hN₂ v (mem_of_mem_inter_right hv)
+    specialize hw₂ v (mem_of_mem_inter_left hv)
+    trans x + g v
+    · gcongr
+    · exact add_le_of_le_tsub_left_of_le hx.le hN₂.le
+  · refine limsup_le_limsup (Eventually.of_forall ?_)
+    simp
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean]:
```suggestion
theorem liminf_add_of_right_tendsto_zero {u : Filter ι} {g : ι → ℝ≥0∞} (hg : u.Tendsto g (𝓝 0))
    (f : ι → ℝ≥0∞) : u.liminf (f + g) = u.liminf f := by
  refine le_antisymm ?_ <| liminf_le_liminf <| .of_forall <| by simp
  refine liminf_le_of_le (by isBoundedDefault) fun b hb ↦ ?_
  rw [Filter.le_liminf_iff']
  rintro a hab
  filter_upwards [hb, ENNReal.tendsto_nhds_zero.1 hg _ <| lt_min (tsub_pos_of_lt hab) one_pos]
    with i hfg hg
  exact ENNReal.le_of_add_le_add_right (hg.trans_lt <| by bound).ne <|
    (add_le_of_le_tsub_left_of_le hab.le <| hg.trans <| min_le_left ..).trans hfg

theorem liminf_add_of_left_tendsto_zero {u : Filter ι} {f : ι → ℝ≥0∞} (hf : u.Tendsto f (𝓝 0))
    (g : ι → ℝ≥0∞) : u.liminf (f + g) = u.liminf g := by
  rw [add_comm, liminf_add_of_right_tendsto_zero hf]

theorem limsup_add_of_right_tendsto_zero {u : Filter ι} {g : ι → ℝ≥0∞} (hg : u.Tendsto g (𝓝 0))
    (f : ι → ℝ≥0∞) : u.limsup (f + g) = u.limsup f := by
  refine le_antisymm ?_ <| limsup_le_limsup <| .of_forall <| by simp
  refine le_limsup_of_le (by isBoundedDefault) fun b hb ↦ ?_
  rw [Filter.limsup_le_iff']
  rintro a hba
  filter_upwards [hb, ENNReal.tendsto_nhds_zero.1 hg _ <| tsub_pos_of_lt hba] with i hf hg
  calc  f i + g i
    _ ≤ b + g i := by gcongr
    _ ≤ a := add_le_of_le_tsub_left_of_le hba.le hg

theorem limsup_add_of_left_tendsto_zero {u : Filter ι} {f : ι → ℝ≥0∞} (hf : u.Tendsto f (𝓝 0))
    (g : ι → ℝ≥0∞) : u.limsup (f + g) = u.limsup g := by
  rw [add_comm, limsup_add_of_right_tendsto_zero hf]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors merge
